US07666612B2
Synthesis of CoA-Dg
To a solution of N-(ε-maleimidocaproic acid) hydrazide 2 (1 mg, 0.0044 mmol) in 50 μl DMF, a solution of coenzyme A disodium salt (3.6 mg, 0.0044 mmol, 1 eq.) in a DMF/buffer mixture (70 μl DMF/30 μl 50 mM Tris Cl, pH 7.5) is added. The reaction is followed by a analytical HPLC (detection at 260 nm) to verify the completion of the reaction. Subsequently, a solution of 3-amino-3-deoxydigoxigenin hemisuccinamide succinimidyl ester (2.6 mg, 0.0044 mmol, 1 eq.) dissolved in 50 μl DMF and 10 μl Et3N is added, and the reaction mixture stirred for 4 hours at room temperature. The reaction is submitted to preparative HPLC and fractions containing the desired product are concentrated in vacuo, dissolved in DMSO, and analyzed by analytical HPLC for purity. Fractions containing pure product are combined. The concentration of CoA-Dg is determined using the extinction coefficient of adenine (ε (adenine, 260 nm)=15′300 [M−1cm−1]). The yield of CoA-Dg is 2.37 mg (37%).

reactant | coenzyme A disodium salt | 0.0044 mmol, 3.6 mg, 1 eq. | [Na].[Na].[C@@H]1([C@H](O)[C@H](OP(=O)(O)O)[C@@H](COP(=O)(O)OP(=O)(O)OCC(C)(C)[C@@H](O)C(=O)NCCC(=O)NCCS)O1)N1C=NC=2C(N)=NC=NC12
reactant | Et3N | 10 μl | CCN(CC)CC | C6H15N
solvent | DMF | 50 μl | CN(C)C=O | C3H7NO
solvent | DMF | 50 μl | CN(C)C=O | C3H7NO
solvent | DMF | 50 mM, 70 μl, pH 7.5 | CN(C)C=O | C3H7NO
product | CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
